US07777038B2
8-Methoxy-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde (2.0 g) was dissolved in DMF (20 ml), and 0.43 g of sodium hydride (60% in oil) was added under ice cooling. After the addition, stirring was carried out at room temperature until the generation of hydrogen stopped. The resulting mixture was cooled in an ice water bath again, 1.2 ml of ethyl iodide was added dropwise, and stirring was carried out at room temperature for 8 hours. The reaction mixture was poured into iced aqueous hydrochloric acid, extraction with methylene chloride was performed, and the organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to thereby obtain 2.1 g (yield: 91%) of 8-methoxy-1-ethyl-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde.

reactant | 8-Methoxy-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde | 2.0 g | COC1=CC=C(C=2CCC(NC12)=O)C=O | C11H11NO3
reactant | sodium hydride | 0.43 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl iodide | 1.2 ml | C(C)I | C2H5I
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-methoxy-1-ethyl-2-oxo-1,2,3,4-tetrahydroquinoline-5-carboxaldehyde | 2.1 g, yield: 91% | COC1=CC=C(C=2CCC(N(C12)CC)=O)C=O | C13H15NO3
